US04788210
starting from ethyl 2,5-dichlorobenzimidate and o-trifluoromethyl-benzoyl chloride there is obtained ethyl N-(o-trifluoromethyl-benzoyl)-2,5-dichlorobenzimidate and therefrom with methylhydrazine there is obtained 3-(2,5-dichlorophenyl)-1-methyl-5-(o-trifluoromethyl-phenyl)-1H-1,2,4-triazole, m.p. 60°-63° C.;

reactant | ethyl 2,5-dichlorobenzimidate | ClC1=C(C(OCC)=N)C=C(C=C1)Cl | C9H9Cl2NO
reactant | o-trifluoromethyl-benzoyl chloride | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
product | ethyl N-(o-trifluoromethyl-benzoyl)-2,5-dichlorobenzimidate | FC(C1=C(C(=O)N=C(C2=C(C=CC(=C2)Cl)Cl)OCC)C=CC=C1)(F)F | C17H12Cl2F3NO2
